US07939521B2
To a solution of oxazole (0.5 mL, 7.6 mmol) in 50 mL of THF at −78° C. under nitrogen atmosphere n-BuLi (1.6 M in hexanes, 4.7 mL, 7.60 mmol) was added. After stirring 20 min ZnCl2 (2.071 g, 15.2 mmol) was added and the mixture warmed to 0° C. and stirred 45 min. Then CuI (1.45 g, 7.6 mmol) was added and, after 20 min, a solution of 2-(chlorocarbonyl)phenylpropionitrile (15.2 mmol), prepared as previously described, in 10 mL of THF was added by dripping. The mixture was left stirring 2 h. The organic phase was diluted with EtOAc and washed sequentially with a saturated solution of NaHCO3 (2×50 mL) and brine (50 mL). After drying over Na2SO4 and solvent evaporation under reduced pressure a residue was obtained that, after flash chromatography, afforded 2-[3-(oxazole-2-carbonyl)phenyl]propionitrile as pale yellow oil (1.27 g, 5.63 mmol). Yield 74%.

reactant | oxazole | 7.6 mmol, 0.5 mL | O1C=NC=C1 | C3H3NO
reactant | n-BuLi | 7.60 mmol, 1.6 M, 4.7 mL | [Li]CCCC
reactant | 2-(chlorocarbonyl)phenylpropionitrile | 15.2 mmol | ClC(=O)C1=C(C=CC=C1)C(C#N)C | C10H8ClNO
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 15.2 mmol, 2.071 g | [Cl-].[Cl-].[Zn+2]
catalyst | CuI | 7.6 mmol, 1.45 g | [Cu]I
product | 2-[3-(oxazole-2-carbonyl)phenyl]propionitrile | 5.63 mmol, 1.27 g, Yield 74% | O1C(=NC=C1)C(=O)C=1C=C(C=CC1)C(C#N)C | C13H10N2O2
